US04156011
(a) p-Bromoanisole
25 g (0.20 mol) of dimethyl sulphate are run over the course of 45 minutes into a refluxing suspension of 34.4 g (0.20 mol) of p-bromophenol and 27.5 g (0.20 mol) of potassium carbonate in 150 ml of acetone. The reflux is maintained for a further hour, the inorganic salts are removed by filtration and the filtrate is evaporated to dryness under reduced pressure. The residue is dissolved in diethyl ether, the ether solution is washed with dilute sodium hydroxide solution and water and is dried over dry sodium sulphate, and the solvent is evaporated to give 37.2 g of a slightly yellow oil which is insoluble in water.

reactant | dimethyl sulphate | 0.20 mol, 25 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | p-bromophenol | 0.20 mol, 34.4 g | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | potassium carbonate | 0.20 mol, 27.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | p-Bromoanisole | BrC1=CC=C(C=C1)OC | C7H7BrO
